US04283408
In 30 ml of methanol was dissolved 4.09 g of methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate and then 15 ml of a methanol solution of 2.88 g of sulfamide was added to the solution under refluxing. After refluxing for about 3 hours, the solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography using a mixture of chloroform and methanol (20:1→10:1) as the developing solvent to provide 3,26 g of N-sulfamoyl-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine. The product shows the following physical chemical properties:

reactant | methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate | 4.09 g | N(C(=N)N)C=1SC=C(N1)CSCCC(OC)=N | C9H15N5OS2
reactant | sulfamide | 2.88 g | S(=O)(=O)(N)N | H4N2O2S
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | N-sulfamoyl-3-[(2-guanidinothiazol-4-yl)methylthio]propionamidine | 3,26 g | S(N)(=O)(=O)NC(CCSCC=1N=C(SC1)NC(=N)N)=N | C8H15N7O2S3
